US07985768B2
1-methoxy-bicyclo[2.2.2]octane-2-carboxylic acid methyl ester
To a 100-mL, round-bottomed flask containing a magnetic stir bar were added 5% palladium/carbon catalyst (100 mg) and methanol (20 mL). Neat 1-methoxybicyclo[2.2.2]oct-5-ene-2-carboxylic acid methyl ester (1.96 g, 1.80 mL, 10.0 mmol) was added. A balloon containing H2 gas was attached and the mixture was stirred at room temperature overnight. The catalyst was removed by vacuum filtration through a small plug of silica gel and the solvent was removed under reduced pressure to provide the title compound. NMR (DMSO-d6, 300 MHz) δ 1.40-1.89 (m, 11H), 2.87 (ddd, J=10.5, 6.4, 2.0 Hz, 1H), 3.07 (s, 3H), 3.57 (s, 3H). MS (ESI+) m/z 200 (M+H)+.

reactant | 1-methoxybicyclo[2.2.2]oct-5-ene-2-carboxylic acid methyl ester | 10.0 mmol, 1.80 mL, 1.96 g | COC(=O)C1C2(C=CC(C1)CC2)OC | C11H16O3
catalyst | palladium/carbon | 100 mg | [Pd] | Pd
solvent | methanol | 20 mL | CO | CH4O
product | 1-methoxy-bicyclo[2.2.2]octane-2-carboxylic acid methyl ester | COC(=O)C1C2(CCC(C1)CC2)OC | C11H18O3
